Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
chin abscess
 
Major Surgical or Invasive Procedure:
wick placement

 
History of Present Illness:
___ year old M with a PMH of depression, smoker who
presents to ___ ED with a persistent abscess of his L chin. 

Patient notes developing a pimple that he popped. He noted some
redness, swelling, and discharge around the area and was seen at
an OSH on ___. It was I&D'd, packed with a wick and he was
started on Keflex QID. The following day he continued to have
pain and re-presented to the ED. His wick was removed and he was
started on Bactrim, but continued to have swelling/erythema. 

Of note, he reports waking up near a spider (black/gray 1 inch)
but doesn't think he was bitten by the spider and reports a
pimple in the location of the abscess prior to seeing the 
spider.
No chin injuries, no known cavities, remote fillings. No recent
tooth pain, discharge, oral injuries. Denies fevers, chills.
Slight headache (similar to prior headaches) last night that
resolved with no intervention. No dizziness, lightheadedness. No
difficulty breathing or swallowing. Noted a swollen LN on his L
chin. Reports some tingling over his L chin but no numbness. No
nausea/vomiting. Good appetite. No chest pain, abd pain, 
diarrhea
or constipation. 

In the ED he had ___ pain and the resident was able to I/D the
abscess again with a small amount of purulent fluid was 
expressed
and sent for bacterial culture prelim gram positive cocci. In 
the
oral cavity, the lower lip inner mucosa had a 3mm raised fistula
drainage site. Patient was evaluated by ENT - he was noted to
have edema and erythema over his entire chin. His abscess was
packed with 2cm of ___ inch wick in the tract that tracks
superiorly and posteriorly. Patient started on Clindamycin and
Vancomycin. Patient afebrile, HR ___ RR ___, BP 120s-130s/80s
O2: 99% on RA. Labs notable for a WBC of 8.8, no lactate. 
 
Past Medical History:
Depression
Wisdom teeth removed years prior

 
Social History:
___
Family History:
Father: cardiac disease, HTN, DMII
 
Physical Exam:
ADMISSION EXAM:
VITALS: T 98.9 HR 91 RR 20 BP 121/84 O2: 98% on RA
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: 1.5cm round abscess along L chin with erythema and packing
with wick, swelling and erythema resolved from other areas of
chin, 5mm LN under L mandible, 2-3mm erythematous area within L
lip - small amount of pus 
CV: RRR, no mrg
RESP: CTAB
GI: soft, NT/ND +BS
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs, no neck pain
SKIN: No rashes or ulcerations noted
NEURO: AOx3, face symmetric, gaze conjugate with EOMI, speech
fluent, moves all limbs, sensation to light touch grossly intact
throughout
PSYCH: normal affect, normal mood

DISCHARGE EXAM:
Vitals reviewed. 
GENERAL: Alert and in no apparent distress
EYES: Anicteric, pupils equally round
ENT: 1.5cm round abscess along L chin with erythema and packing
with wick, swelling and erythema, erythematous area within L
lip - small amount of pus 
CV: RRR, no mrg
RESP: CTAB
GI: soft, NT/ND +BS
SKIN: No rashes or ulcerations noted
PSYCH: normal affect, normal mood

 
Pertinent Results:
ADMISSION RESULTS:

___ 07:28PM BLOOD WBC-8.8 RBC-4.48* Hgb-12.8* Hct-38.4* 
MCV-86 MCH-28.6 MCHC-33.3 RDW-13.2 RDWSD-41.1 Plt ___
___ 07:28PM BLOOD Neuts-77.3* Lymphs-15.8* Monos-6.2 
Eos-0.0* Baso-0.2 Im ___ AbsNeut-6.79* AbsLymp-1.39 
AbsMono-0.54 AbsEos-0.00* AbsBaso-0.02
___ 07:28PM BLOOD Glucose-102* UreaN-10 Creat-0.8 Na-139 
K-4.3 Cl-104 HCO3-22 AnGap-13
___ 07:46PM BLOOD Lactate-1.0

PERTINENT INTERVAL AND DISCHARGE RESULTS

___ 07:55AM BLOOD WBC-6.5 RBC-4.62 Hgb-13.3* Hct-38.7* 
MCV-84 MCH-28.8 MCHC-34.4 RDW-12.8 RDWSD-39.0 Plt ___
___ 07:55AM BLOOD Neuts-50.1 ___ Monos-7.1 Eos-0.2* 
Baso-0.5 Im ___ AbsNeut-3.26# AbsLymp-2.70 AbsMono-0.46 
AbsEos-0.01* AbsBaso-0.03
___ 07:55AM BLOOD Glucose-92 UreaN-13 Creat-0.8 Na-142 
K-4.2 Cl-104 HCO3-23 AnGap-15
___ 07:55AM BLOOD %HbA1c-5.2 eAG-103

   FLUID CULTURE (Final ___: 
      STAPH AUREUS COAG +.    SPARSE GROWTH. 
         Oxacillin RESISTANT Staphylococci MUST be reported as 
also
         RESISTANT to other penicillins, cephalosporins, 
carbacephems,
         carbapenems, and beta-lactamase inhibitor combinations. 

         RIFAMPIN should not be used alone for therapy. 
      VIRIDANS STREPTOCOCCI.    RARE GROWTH. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------<=0.25 S
ERYTHROMYCIN----------   0.5 S
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------     4 R
OXACILLIN-------------   =>4 R
RIFAMPIN-------------- <=0.5 S
TETRACYCLINE----------   <=1 S
TRIMETHOPRIM/SULFA---- <=0.5 S
VANCOMYCIN------------     1 S

   ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED. 
 
Brief Hospital Course:
___ year old M with a PMH of depression, smoker who presents to 
___ ED with a persistent abscess of his L chin. Likely 
infected pimple which failed o/p mgmt. due to either inadequate 
drainage or inadequate antibiotics. Improving
now with adequate drainage/antibiotics. 

ACUTE/ACTIVE PROBLEMS:
#L chin abscess: likely ___ infected popped pimple, higher risk 
of developing infection and poor healing with active smoking. No 
other known risk factors. Failed drainage at OSH and 
Keflex-->Keflex/Bactrim. Most likely, this is adequate abx but 
he needed more drainage. Now very well drained by ENT here, and 
fistulous tract appears to be closing. No cultures drawn at OSH. 
BCx NGTD, abscess drainage growing staph and viridans strep as 
above. Was initially started on vanc/clinda in ED and 
transitioned to Clindamycin and Keflex on discharge for total ___ourse. His exam improved throughout. He was advised 
to stop smoking to aid healing and was amenable to using 
nicotine patches in hospital. 

CHRONIC/STABLE PROBLEMS:
#Depression: continued Prozac 60 mg daily

TRANSITIONAL ISSUES
- f/u final BCx
- patient to follow up with ENT after discharge.
- will need ___ for wick mgmt
- Contacts: Father ___, fiancee also at bedside
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 60 mg PO DAILY 
The Preadmission Medication list is accurate and complete.
1. FLUoxetine 60 mg PO DAILY 

 
Discharge Medications:
1.  Cephalexin 500 mg PO Q6H Duration: 5 Days 
RX *cephalexin 500 mg 1 capsule(s) by mouth every six (6) hours 
Disp #*20 Capsule Refills:*0 
2.  Clindamycin 300 mg PO Q6H Duration: 5 Days 
RX *clindamycin HCl 300 mg 1 capsule(s) by mouth every six (6) 
hours Disp #*20 Capsule Refills:*0 
3.  Ibuprofen 400 mg PO Q8H:PRN Pain - Moderate  
4.  Nicotine Patch 14 mg TD DAILY 
RX *nicotine 14 mg/24 hour 1 once a day Disp #*30 Patch 
Refills:*0 
5.  OxyCODONE--Acetaminophen (5mg-325mg) 1 TAB PO DAILY 
Duration: 2 Doses 
RX *oxycodone-acetaminophen 5 mg-325 mg 1 tablet(s) by mouth 
once a day Disp #*2 Tablet Refills:*0 
6.  FLUoxetine 60 mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
abscess of face
cellulitis of face

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure caring for you. You were admitted for neck 
swelling caused by an infection (an abscess). This got better 
with repeat drainage and strong antibiotics. 
We also advise you to quit smoking as smoking is a further risk 
factor for your infection. 
Call your doctor or seek immediate medical assistance if you 
develop fevers, chills, nausea, vomiting, diarrhea, worsening 
redness or swelling on your face, trouble breathing, trouble 
swallowing spit, wheezing, numbness or weakness in your face, 
discharge into your mouth, or any other symptom that concerns 
you. 

Please complete your course of antibiotics as prescribed.

Please call the ENT doctors for follow up in ___ days. Dr.
___ ___ for appointment.

 
Followup Instructions:
___